US07858640B2
N-(2-fluoro-5-nitrophenyl)acetamide
Acetic anhydride (8.0 mL) was added dropwise over a period of 10 minutes to a mixture of 2-fluoro-5-nitrophenylamine (7.8 g) and acetic acid (50 mL) at reflux. The resulting mixture was heated at reflux for 30 minutes and cooled to 40° C. The mixture was poured into cold water (800 mL) and the resulting precipitate collected by filtration, washed with 1.0 M aqueous hydrochloric acid and water and dried to give title compound as a light brown solid, 9.2 g.

reactant | Acetic anhydride | 8.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-fluoro-5-nitrophenylamine | 7.8 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5FN2O2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 800 mL | O | H2O
product | N-(2-fluoro-5-nitrophenyl)acetamide | FC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C8H7FN2O3
